US06613903B2
A solution of 2-amino-7-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydrothieno-[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (250 mg, 0.645 mmol) in dichloromethane (10 ml) was added 4-phenoxyphenyl isocyanate (136 mg, 0.645 mmol) and the reaction mixture was stirred 16 hours at room temperature, before the solvent was removed in vacuo which afforded 386 mg (100%) of 2-amino-7-(S)-(3-(4-phenoxy-phenyl)-ureidomethyl)-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-amino-7-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydrothieno-[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.645 mmol, 250 mg | C(C)(C)(C)OC(=O)C1=C(SC=2[C@@H](N(CCC21)[C@@H](C)C2=CC=CC=C2)CN)N | C21H29N3O2S
reactant | 4-phenoxyphenyl isocyanate | 0.645 mmol, 136 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-amino-7-(S)-(3-(4-phenoxy-phenyl)-ureidomethyl)-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 386 mg, 100% | C(C)(C)(C)OC(=O)C1=C(SC=2[C@@H](N(CCC21)[C@@H](C)C2=CC=CC=C2)CNC(=O)NC2=CC=C(C=C2)OC2=CC=CC=C2)N | C34H38N4O4S
